US07141669B2
Preparation of 3-(4-Chlorophenyl)-2-(2-chlorophenyl)-5-methyl-6-(2,2,2-trifluoroethyl)-2,6-dihydropyrazolo[4,3-d]pyrimidin-7-one (4A-1)
To a mixture of 3-(4-chlorophenyl)-2-(2-chlorophenyl)-5-methyl-2H-pyrazolo[4,3-d]pyrimidin-7-ol (I-4A-1a, 1.86 g, 5.0 mmol) in anhydrous THF (30 ml) at room temperature was added lithium hexamethyldisilazide (7.5 ml, 7.5 mmol). A reddish solution was formed. Trifluoromethanesulfonic acid 2,2,2-trifluoroethyl ester (2.2 ml, 15 mmol) was subsequently added in one portion. The reaction mixture was stirred at 60° C. for 1.5 h, quenched with water, and concentrated under vacuum. MeOH was added to the residue to give a slurry which was then cooled to 0° C. A yellowish solid was formed and collected by filtration to give the desired product 4A-1 (1.63 g, 72%): MS (m/z) 453.1 (M+H)+; 1H NMR (400 MHz, CDCl3): δ 7.55–7.52 (m, 1H), 7.46–7.40 (m, 2H), 7.39–7.32 (m, 2H), 7.31–7.28 (m, 2H), 5.00–4.80 (br m, 2H), 2.87 (q, J=7.1 Hz, 2H), 1.37 (t, J=7.1 Hz, 3H).

reactant | 3-(4-chlorophenyl)-2-(2-chlorophenyl)-5-methyl-2H-pyrazolo[4,3-d]pyrimidin-7-ol | 5.0 mmol, 1.86 g | ClC1=CC=C(C=C1)C=1N(N=C2C1N=C(N=C2O)C)C2=C(C=CC=C2)Cl | C18H12Cl2N4O
reactant | lithium hexamethyldisilazide | 7.5 mmol, 7.5 ml | C[Si]([N-][Si](C)(C)C)(C)C.[Li+]
reactant | Trifluoromethanesulfonic acid 2,2,2-trifluoroethyl ester | 15 mmol, 2.2 ml | FC(COS(=O)(=O)C(F)(F)F)(F)F | C3H2F6O3S
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 3-(4-Chlorophenyl)-2-(2-chlorophenyl)-5-methyl-6-(2,2,2-trifluoroethyl)-2,6-dihydropyrazolo[4,3-d]pyrimidin-7-one | ClC1=CC=C(C=C1)C=1N(N=C2C1N=C(N(C2=O)CC(F)(F)F)C)C2=C(C=CC=C2)Cl | C20H13Cl2F3N4O
